US04038396
Step B: Preparation of 3-benzoylamino-5-chloro-2-pyridone
5-Chloro-3-nitro-2-pyridone (5.3 g.) was hydrogenated in 225 ml. of ethanol and 6 ml. of acetic acid in the presence of 0.6 g. of 5% palladium-on-carbon. The catalyst was removed by filtration and the filtrate was concentrated to dryness. The residue was dissolved in 75 ml. of pyridine, cooled in ice and treated over 15 minutes with 4.8 g. of benzoyl chloride. The ice bath and reaction mixture were allowed to warm to room temperature spontaneously. The mixture was poured onto 200 g. of ice. On dilution with 500 ml. of water an oil separated which on washing with water solidified (4 g.). The crude 3-benzoylamino-5-chloro-2-pyridone was used directly in the next step.

reactant | 5-Chloro-3-nitro-2-pyridone | 5.3 g | ClC=1C=C(C(NC1)=O)[N+](=O)[O-] | C5H3ClN2O3
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-benzoylamino-5-chloro-2-pyridone | C(C1=CC=CC=C1)(=O)NC=1C(NC=C(C1)Cl)=O | C12H9ClN2O2
